datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([H:12])[H:13])[C:4]([C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1[C:3]([H:12])([H:13])[C:7]([C:8]([H:21])([H:22])[H:23])([H:20])[C:6]([H:18])([H:19])[C:5]([H:16])([H:17])[C:4]1([H:14])[H:15])[H:11])([H:9])[H:10],26.2755
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])=[C:7]([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([C:6]([H:19])([H:20])[H:21])[C:7]1([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])[H:13])([H:11])[H:12],109.537
[C:1](#[C:2][C:3]([C:4]([c:5]1[c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]1[H:17])([H:18])[H:19])[H:20])[H:21]>>[C:1](#[C:2][C:4]([C:3]([H:18])[H:20])([c:5]1[c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]1[H:17])[H:19])[H:21],113.587232
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([S:14][H:20])[C:15](=[S:16])[H:21])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([C:12]([H:17])([H:18])[H:19])([S:14][H:20])[C:15](=[S:16])[H:21],74.4752
[C:0]1([H:3])([H:4])[C:1]([H:5])([H:6])[O:2]1.[C:7]([O:8])([H:9])([H:10])[H:11]>>[C:0]1([H:4])[C:1]([H:5])([H:6])[O:2]1.[H:3][O:8][C:7]([H:9])([H:10])[H:11],28.242
[C:0](=[C:1]([C:2]=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1][C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])([H:10])[H:11],214.463472
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13])([H:4])[H:5],27.1542
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[O:5]1)([H:7])([H:8])[H:9].[O:6][H:17],37.656
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([C:11]([O:12][O:13])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:13][O:12][C:11]([C:10]([C:9]([C:8]([H:14])([H:15])[H:16])([H:17])[H:18])([H:19])[H:20])([H:21])[H:22],85.60464
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9][C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9](=[C:8]([H:12])[H:13])[C:10](=[C:11]([H:15])[H:16])[H:14],38.4928
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][O:6][H:15],125.9384
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]1([H:15])([H:16])[C:7]([H:17])([H:18])[C:8]([H:19])([H:20])[C:9]2([H:21])[C:10]([H:22])([H:23])[C:11]([H:24])([H:25])[C:12]([H:26])([H:27])[C:13]2([H:28])[C:14]1([H:29])[H:30]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:22])[H:3].[C:6]1([H:15])([H:16])[C:7]([H:17])([H:18])[C:8]([H:19])([H:20])[C:9]2([H:21])[C:10]([H:23])[C:11]([H:24])([H:25])[C:12]([H:26])([H:27])[C:13]2([H:28])[C:14]1([H:29])[H:30],59.9149
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16]=[S:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([C:15]([H:18])([H:19])[H:20])=[S:17],31.38
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],2.63592
[C:0]([O:1][H:4])([H:2])[H:3]>>[C:0]([O:1])([H:2])([H:3])[H:4],138.49
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[C:15]([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:12][C:15]([H:16])([H:17])[H:18],22.932504
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6][H:28])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([H:30])[H:31])[H:29])([H:26])[H:27])([H:23])([H:24])[H:25],74.0568
